US05958983
Preparation of N,N"-(methylenedi-4,1-phenylene)bis[N'-(4-nitrophenyl)thiourea]
A solution of 4-nitrophenyl isothiocyanate (0.45 g, 2.52 mmol) in dioxane (25 mL) is slowly added, with magnetic stirring, to a solution of 4,4'-diaminodiphenyl methane (0.25 g, 1.26 mmol) in dioxane (10 mL). After 24 hours of stirring at room temperature, the solvent is removed by vacuum evaporation. The solid obtained is washed with n-hexane (3×25 mL) and isopropanol (3×10 mL). Next, the solid is dissolved in ethyl acetate (50 mL) and washed with water (3×25 mL). The organic phase is dried with sodium sulfate. The solvent is removed by vacuum evaporation. The titled compound is obtained as a yellow powder. mp: 115° C.

reactant | 4-nitrophenyl isothiocyanate | 2.52 mmol, 0.45 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=S | C7H4N2O2S
reactant | 4,4'-diaminodiphenyl methane | 1.26 mmol, 0.25 g | C1=CC(=CC=C1CC2=CC=C(C=C2)N)N | C13H14N2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N,N"-(methylenedi-4,1-phenylene)bis[N'-(4-nitrophenyl)thiourea] | C(C1=CC=C(C=C1)NC(=S)NC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)NC(=S)NC1=CC=C(C=C1)[N+](=O)[O-] | C27H22N6O4S2
